US05728724
[2-(2-Naphthyl)-6-methoxybenzothien-3-yl][4-[2-(1-piperdinyl)ethoxy]phenyl]methanone
By the method described in Example 1, [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperdinyl)ethoxy]phenyl]methanone (1.58 g, 3.6 mmol) in THF (12 mL) was reacted with a 0.65M THF solution of 2-naphthylmagnesium bromide (15 mL, 9.8 mmol) to provide, after chromatography (silica gel, 5% methanol in methylene chloride) 1.41 g (75%) of the title compound as a green/yellow foam: 1H NMR (300 MHz, CDCl3) δ1.43 (m, 2H), 1.59 (m, 4H), 2.45 (m, 4H), 2.70 (t, J=6.0 Hz, 2H), 3.91 (s, 3H), 4.02 (t, J=6.0 Hz, 2H), 6.72 (d, J=8.7 Hz, 2H), 7.01 (dd, J=2.1 Hz, 8.8 Hz, 1H), 7.38 (d, J=2.3 Hz, 1H), 7.44-7.47 (m, 2H), 7.53 (d, J=8.4 Hz, 1H), 7.60 (d, J=9.3 Hz, 1H), 7.67-7.79 (m, 4H), 7.82 (d, J=8.7 Hz, 2H), 7.94 (d, J=1.6 Hz, 1H); MS (FD) m/e 521 (M+); Anal. calc'd. for C33H31NO3S: C, 75.98; H, 5.99; N, 2.68. Found: C, 76.27; H, 6.10; N, 2.74.

reactant | [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperdinyl)ethoxy]phenyl]methanone | 3.6 mmol, 1.58 g | CN(C=1SC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)OC)C | C25H30N2O3S
reactant | 2-naphthylmagnesium bromide | 9.8 mmol, 15 mL | C1=C(C=CC2=CC=CC=C12)[Mg]Br
reactant | methanol | CO | CH4O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | THF | 0.65M | C1CCOC1 | C4H8O
product | [2-(2-Naphthyl)-6-methoxybenzothien-3-yl][4-[2-(1-piperdinyl)ethoxy]phenyl]methanone | 1.41 g, 75% | C1=C(C=CC2=CC=CC=C12)C=1SC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)OC | C33H31NO3S
